US08809371B2
Imidazole (42 mg), cesium carbonate (340 mg), trans-N,N′-dimethylcyclohexane-1,2-diamine (74 mg), and copper iodide (50 mg) were added to a tube containing a N,N-dimethylacetamide (2 ml) solution containing 5-bromopyridin-3-amine (90 mg) in a nitrogen atmosphere and the tube was sealed, followed by stirring at 150° C. for 14.5 hours. The reaction solution was adjusted to room temperature, and water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (chloroform:methanol=1:0 to 10:1), and a brown solid of 5-(1H-imidazol-1-yl)pyridin-3-amine (25.8 mg) was thus obtained.

reactant | Imidazole | 42 mg | N1C=NC=C1 | C3H4N2
reactant | cesium carbonate | 340 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 74 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 5-bromopyridin-3-amine | 90 mg | BrC=1C=C(C=NC1)N | C5H5BrN2
catalyst | copper iodide | 50 mg | [Cu](I)I
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
product | 5-(1H-imidazol-1-yl)pyridin-3-amine | 25.8 mg | N1(C=NC=C1)C=1C=C(C=NC1)N | C8H8N4
